US04820834
1,3-Dihydro-5-(2-fluorophenyl)-3(RS)-(4-chlorobenzoyl)oxy-2H-1,4-benzodiazepin-2-one
A suspension of 1,3-dihydro-5-(2-fluorophenyl)-3-hydroxy-2H-1,4-benzodiazepin-2-one (610 mg, 2.25 mmole) in 25 ml of methylene chloride was treated with 4-chlorobenzoyl chloride (0.314 ml, 2.48 mmole) at room temperature. 4-Dimethylaminopyridine (303 mg, 2.48 mmole) was added and within minutes the reaction mixture became homogeneous. The reaction mixture was protected from moisture and stirred at room temperature overnight. An additional equivalent each of 4-chlorobenzoyl chloride and 4-dimethylaminopyridine were added and stirring was continued for 8 hours at 40°-45° C. The reaction mixture was diluted to 150 ml with methylene chloride and washed in succession with 10% citric acid solution (3×50 ml), saturated sodium bicarbonate solution (3×50 ml) and brine (50 ml). Rotoevaporation of the dried (MgSO4) organic phase gave a foam which on trituration with ether afforded a beige solid. The mother liquors were concentrated and the residue chromatographed on silica gel (hexane-ethyl acetate, 1:1 v/v) to give the title compound.

reactant | 1,3-dihydro-5-(2-fluorophenyl)-3-hydroxy-2H-1,4-benzodiazepin-2-one | 2.25 mmole, 610 mg | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)O | C15H11FN2O2
reactant | 4-chlorobenzoyl chloride | 2.48 mmole, 0.314 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 2.48 mmole, 303 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 1,3-Dihydro-5-(2-fluorophenyl)-3(RS)-(4-chlorobenzoyl)oxy-2H-1,4-benzodiazepin-2-one | FC1=C(C=CC=C1)C1=NC(C(NC2=C1C=CC=C2)=O)OC(C2=CC=C(C=C2)Cl)=O | C22H14ClFN2O3
